US05026418
Preparation of 3-hydroxy-4-methyl-3-pyrimidin-5-yl-1-trimethylsilylpent-1-yne.
A solution of ethyl magnesium bromide (33 ml of a solution which was 3M in tetrahydrofuran; 0.1 mol) was added to a stirred, cooled solution of ethynyltrimethylsilane (9.8 g,0.1 mol) in dry tetrahydrofuran (150 ml) under nitrogen. The rate of addition was adjusted so as to maintain the reaction temperature below 30° C. After stirring for 45 minutes, 2-methyl-1-pyrimidin-5-ylpropan-1-one (15 g, 0.1 mol) in dry tetrahydrofuran (30 ml) was slowly added. The mixture was allowed to react for 2.8 hours before quenching with dilute aqueous HCl. Extraction with ethyl acetate, drying (over sodium sulphate) and concentration under reduced pressure gave the title compound as white crystals (20.3 g). The product was further purified by recrystallisation from hexane to give a solid of melting point 116.6° C.

reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | ethynyltrimethylsilane | 0.1 mol, 9.8 g | C(#C)[Si](C)(C)C | C5H10Si
reactant | 2-methyl-1-pyrimidin-5-ylpropan-1-one | 0.1 mol, 15 g | CC(C(=O)C=1C=NC=NC1)C | C8H10N2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-4-methyl-3-pyrimidin-5-yl-1-trimethylsilylpent-1-yne | 20.3 g | OC(C#C[Si](C)(C)C)(C(C)C)C=1C=NC=NC1 | C13H20N2OSi
